US05710169
N-[2-(3,4-Dichlorophenyl)-2-(4-hydroxy-4-phenylpiperidino)ethyl]benzamide hydrochloride salt
Benzoyl chloride (290 mg) and triethylamine (420 mg) were added to a solution of 2-(3,4-Dichlorophenyl)-2-(4-hydroxy-4-phenylpiperdino)ethylamine (750 mg) in tetrahydrofuran (37.5 mL). The reaction was stirred at 23° C. for 18 hours, and was evaporated to an oil-solid mixture. The mixture was partitioned between water (100 mL) and dichloromethane (100 mL), and the seperated organic layer was dried and evaporated to an off-white solid (1.01 gm). Treatment of a solution of this solid in diethylether with hydrochloric acid (g)/diethylether followed by recrystalization of the hydrochloride salt from ethylacetate (hot,minimum volume) provided the title compound as a white solid (450 mg); mp 232°-235° C.; MS: m/z=469(M+1); NMR: 1.8 (m, 2), 2.44 (m, 1), 2.63 (m, 1), 3.17 (m,3), 3.99 (m,2), 4.27 (m,1), 4.76 (m, 1), 5.4 (broad s,1), 7.26 (m,1), 7.46 (m,7), 7.8 (m, 5), 11.37 (broad s,1). Analysis Calculated: C, 61.73; H, 5.38; N, 5.54; Found: C, 61.8; H, 5.5; N, 5.52.

reactant | Benzoyl chloride | 290 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 420 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(3,4-Dichlorophenyl)-2-(4-hydroxy-4-phenylpiperdino)ethylamine | 750 mg | ClC=1C=C(C=CC1Cl)C(CN)N1CCC(CC1)(C1=CC=CC=C1)O | C19H22Cl2N2O
solvent | tetrahydrofuran | 37.5 mL | O1CCCC1 | C4H8O
product | N-[2-(3,4-Dichlorophenyl)-2-(4-hydroxy-4-phenylpiperidino)ethyl]benzamide hydrochloride salt | 450 mg | Cl.ClC=1C=C(C=CC1Cl)C(CNC(C1=CC=CC=C1)=O)N1CCC(CC1)(C1=CC=CC=C1)O | InChI=1S/C26H26Cl2N2O2.ClH/c27-22-12-11-20(17-23(22)28)24(18-29-25(31)19-7-3-1-4-8-19)30-15-13-26(32,14-16-30)21-9-5-2-6-10-21;/h1-12,17,24,32H,13-16,18H2,(H,29,31);1H
